US07893056B2
A mixture of 2-chloro-5-fluoro-4-hydrazino-6-(4-methyl-1-piperazinyl)pyrimidine (31 mg, 0.12 mmol), (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (36 mg, 0.12 mmol), HOAt (20 mg, 0.144 mmol), EDC (28 mg, 0.144 mmol) and NMM (26 uL, 0.144 mmol) in DMF (2 mL) was stirred until the reaction was complete (2 h). The reaction mixture was then purified via RP-HPLC to provide [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (30 mg, 46%). LCMS: (M+H)+: 542.3; (M+Na)+: 564.3.

reactant | 2-chloro-5-fluoro-4-hydrazino-6-(4-methyl-1-piperazinyl)pyrimidine | 0.12 mmol, 31 mg | ClC1=NC(=C(C(=N1)NN)F)N1CCN(CC1)C | C9H14ClFN6
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.12 mmol, 36 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | HOAt | 0.144 mmol, 20 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.144 mmol, 28 mg
reactant | NMM | 0.144 mmol, 26 uL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-{2-[2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-4-pyrimidinyl]hydrazino}-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 30 mg, 46% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CCN(CC1)C | C24H37ClFN7O4
